US08470814B2
(2) 3-(1-Amino-2-naphthylamino)benzonitrile
3-(1-Nitro-2-naphthylamino)benzonitrile (1.16 g, 3.99 mmol) was hydrogenated in methanol (20 mL)/THF (40 mL) for 4 hours at room temperature using 10% palladium-carbon (220 mg) as a catalyst. After removal of the catalyst by filtration, the filtrate was concentrated to dryness. The residue was purified by silica gel column chromatography (chloroform/methanol=99/1), to give the titled compound as a yellow crystal (968 mg, yield 93%).

reactant | 3-(1-Nitro-2-naphthylamino)benzonitrile | 3.99 mmol, 1.16 g | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)NC=1C=C(C#N)C=CC1 | C17H11N3O2
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium-carbon | 220 mg | [C].[Pd]
product | 3-(1-Amino-2-naphthylamino)benzonitrile | 968 mg, yield 93% | NC1=C(C=CC2=CC=CC=C12)NC=1C=C(C#N)C=CC1 | C17H13N3
